US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylsulfanyl)-piperidine-1-carboxylic Acid Phenylamide
4-{[4-(2-{[(2S)-3-(4-([tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)phenyl]sulfanyl}-N-phenyl-1-piperidinecarboxamide (0.25 g, 0.33 mmol) was reacted according to Procedure H (eluant: 12:3:1 dichloromethane-chloroform-methanol) to give the title compound (0.12 g, 0.23 mmol).

reactant | 4-{[4-(2-{[(2S)-3-(4-([tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxy-propyl]amino}ethyl)phenyl]sulfanyl}-N-phenyl-1-piperidinecarboxamide | 0.33 mmol, 0.25 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(C=C2)SC2CCN(CC2)C(=O)NC2=CC=CC=C2)O)C=C1 | C45H53N3O4SSi
solvent | dichloromethane chloroform methanol | ClCCl.C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylsulfanyl)-piperidine-1-carboxylic Acid Phenylamide | 0.23 mmol, 0.12 g | C1(=CC=CC=C1)NC(=O)N1CCC(CC1)SC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C29H35N3O4S
